US07723538B2
4-{3-[5-(2-Methyl-5-trifluoromethyl-2H-pyrazol-3-yl)-thiophene-2-sulfonlyamino]-benzoylamino}-benzoic acid, MS (ISP): m/e=549.2 (M−H), was prepared in analogy to example 1, steps A to D. Step C was performed using 5-(2-methyl-5-trifluoromethyl-2H-pyrazol-3-yl)-thiophene-2-sulfonyl chloride and yielded 4-{3-[5-(2-methyl-5-trifluoromethyl-2H-pyrazol-3-yl)-thiophene-2-sulfonylamino]-benzoylamino}-benzoic acid ethyl ester, which was hydrolyzed in step D.

reactant | 4-{3-[5-(2-Methyl-5-trifluoromethyl-2H-pyrazol-3-yl)-thiophene-2-sulfonlyamino]-benzoylamino}-benzoic acid | CN1N=C(C=C1C1=CC=C(S1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC1)C(F)(F)F | C23H17F3N4O5S2
reactant | 5-(2-methyl-5-trifluoromethyl-2H-pyrazol-3-yl)-thiophene-2-sulfonyl chloride | CN1N=C(C=C1C1=CC=C(S1)S(=O)(=O)Cl)C(F)(F)F | C9H6ClF3N2O2S2
product | 4-{3-[5-(2-methyl-5-trifluoromethyl-2H-pyrazol-3-yl)-thiophene-2-sulfonylamino]-benzoylamino}-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(C1=CC(=CC=C1)NS(=O)(=O)C=1SC(=CC1)C=1N(N=C(C1)C(F)(F)F)C)=O)=O | C25H21F3N4O5S2
